Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male patient with history of hypertension, anemia,
and memory loss, who presented to the ED for evaluation for
recurrent episodes of syncope and fall. 

Patient was walking back from the grocery store when he fell and
lost consciousness. He also had a head strike with some
associated bleeding. He was alone, and was found by a physician
___. The patient did not remember the event, wife reports
he has memory isuues. He denied any chest pain, shortness 
breath,
dizziness, lightheadedness, palpitations, and dizziness prior to
the fall. 

Wife reported that he has had 2 such episodes in the past month.
One was in the yard and she does not recall the details. The
other episode was in the kitchen 3 weeks ago, when he suddenly
blacked out while standing.
  
 
Past Medical History:
Essential hypertension
Anemia 
Benign prostatic hyperplasia 
Colorectal polyps
Memory problem 
Macular puckering
PVD (posterior vitreous detachment) 
Optic nerve cupping, suspicious 
Cataract cortical, senile 
Pseudophakia of left eye 
Nuclear senile cataract of right eye 
 
Social History:
___
Family History:
He is an only child. Parents are not alive.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.2 PO ___ 97 Ra 
GENERAL: Pleasant, lying in bed comfortably  
HEENT: Head covered by gauze.
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes  

DISCHARGE EXAM:
===============
VS: ___ 2154 BP: 167/95recheck Dyspnea: 0 RASS: 0 Pain
Score: ___ 
___ 2152 Temp: 98.0 PO BP: 187/101 HR: 83 RR: 20 O2 sat: 
97%
O2 delivery: Ra 
  
GENERAL: Lying comfortably in bed
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi   
NEURO: Oriented to self only this morning. Responsive to verbal
stimuli and able to follow commands. Strength and sensation
intact. CN intact. No focal deficits.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:42PM BLOOD WBC-7.7 RBC-3.76* Hgb-11.7* Hct-35.7* 
MCV-95 MCH-31.1 MCHC-32.8 RDW-13.0 RDWSD-45.3 Plt ___
___ 02:42PM BLOOD Glucose-102* UreaN-28* Creat-1.7* Na-140 
K-4.5 Cl-104 HCO3-21* AnGap-15
___ 04:30AM BLOOD Albumin-3.9 Calcium-9.1 Phos-2.7 Mg-2.1

DISCHARGE LABS:
===============
___ 04:30AM BLOOD WBC-8.2 RBC-3.36* Hgb-10.4* Hct-32.0* 
MCV-95 MCH-31.0 MCHC-32.5 RDW-12.8 RDWSD-44.7 Plt ___
___ 02:42PM BLOOD Neuts-69.0 ___ Monos-7.9 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-5.34 AbsLymp-1.59 AbsMono-0.61 
AbsEos-0.13 AbsBaso-0.04
___ 04:30AM BLOOD Glucose-96 UreaN-29* Creat-1.5* Na-141 
K-4.1 Cl-109* HCO3-21* AnGap-11
___ 04:30AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.0

IMAGING:
========
___ HEAD AND CTA NECK
1. Normal variance vascular anatomy without evidence of aneurysm 
or occlusion.
No evidence of  hemorrhage.
2. Age-related involutional changes as well as evidence of 
chronic
microangiopathy.

___ Report
IMPRESSION: Adequate image quality. No structural cardiac cause 
of syncope identified. Mild basal
septal hypertrophy with normal cavity size and regional/global 
systolic function. Mild aortic
regurgitation.

___ HEAD W/O CONTRAST
1. Left parietal-occipital scalp hematoma and laceration without 
underlying
fracture or acute intra-axial hemorrhage.
2. Sequela of chronic microvascular ischemic disease.

___ C-SPINE W/O CONTRAST
No acute fracture.  Subtle misalignments, likely chronic though 
clinical
correlation is advised.

___ SHOULDER
Mild glenohumeral and moderate acromioclavicular degenerative 
changes without
acute fracture or dislocation.

 
Brief Hospital Course:
___ male patient with history of BPH and hypertension, 
who presented to the ED for evaluation for recurrent episodes of 
syncope with loss of consciousness. While on the floor, the 
patient had one episode of transient unresponsiveness for which 
a code stroke was called, but ultimately thought to be secondary 
to a seizure. 

ACUTE ISSUES: 
============= 
#Unresponsiveness
#Seizure: The patient had one episode of acute onset 10 minuted 
of unresponsiveness
on ___. A code stroke was called, and a CTA head/neck, CT head 
unremarkable. Neurology was concerned for a seizure particularly 
given the patient's history of ___ alcoholic drinks per day. An 
EEG was recommended however the patient was temporarily 
combatant and this was unable to be done. He was treated with 
Thiamine and Folate for possible underlying Wernicke's 
Encephalopathy, however given that these were likely alcohol 
withdrawal seizures he was not started on and anti-epileptic 
medications. Patient was no longer combative x 48 hours prior to 
discharge.

#Syncope: The symptoms and events surrounding the patient's 
syncope are not entirely clear. No chest pain or palpitations, 
negative troponins and normal EKG with 48 hours on telemetry 
with no evidence of arrythmia made a cardiac cause unlikely. He 
also had a TTE which did not show any severe valvular pathology. 
Primary neurologic cause more likely, particularly given likely 
seizure while inpatient. The patient was counseled to decrease 
his alcohol intake as an outpatient as this is likely the 
underlying etiology for his seizures and falls.

#Hypertension: Lisinopril held initially in the setting ___ 
(below) however it was restarted following resolution.

#Acute on CKD: Admitted with mild ___ with Cr to 1.7, though 
improved without intervention and dishartnow down to baseline Cr 
1.5.

#Anemia: At baseline per Atrius records. Normocytic. 

TRANSITIONAL ISSUES:
====================
[] Episode of unresponsiveness likely secondary to alcohol 
withdrawal seizure in hospital: Received Ativan with resolution 
of symptoms
[] ___ on admission: Discharge Cr 1.5 (Baseline)
[] Anemia at baseline: Discharge Hgb 10.4
[] Continue to reinforce that the patient should limit his 
alcohol intake
[] MOLST completed with wife
 DNR
 DNI
 No non-invasive ventilation
 DO NOT TRANSFER TO HOSPITAL (unless needed for comfort)
 No dialysis 
 Ok for artificial nutrition
 Ok for artificial hydration

# CODE: DNR/DNI (confirmed)
# CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Syncope
- Dementia
- Alcohol abuse

Secondary Diagnosis:
- Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because:
- You were having some falls at home

While you were here:
- You had some imaging of your heart which showed that there was 
no cardiac cause for your falls
- You had an event in the hospital where you passed out
- There was a concern that you may have had a stroke, however 
you had imaging of your brain which showed no stroke
- Our brain specialists evaluated you and it was most likely 
that you had had a seizure
- This seizure was likely caused by excessive alcohol intake
- You were seen by our physical therapists who recommended that 
you be discharged to a rehab facility

When you leave:
- Please take all of your medications as prescribed
- Please attend all of your follow up appointments as arranged 
for you
- Please decrease your alcohol intake as this is likely leading 
to your falls and underlying seizure while in the hospital

It was a pleasure to care for you during your hospitalization!

Your ___ Care Team
 
Followup Instructions:
___